US08686048B2
Intermediate 10: 3-chloro-3′-ethoxy-5-fluorobiphenyl-4-amine
The title compound (0.360 g) was prepared from 4-bromo-2-chloro-6-fluoroaniline (0.5 g, 2.0 mmol) and 3-ethoxyphenylboronic acid (0.441 g, 2.65 mmol) as a yellow liquid. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 7.43-7.38 (m, 2H), 7.27 (t, J 7.9, 1H), 7.14 (d, J 7.9, 1H), 7.10 (s, 1H), 6.82 (dd, J 2.1, 8.1, 1H), 5.51 (s, 2H), 4.07 (q, J 7, 2H), 1.32 (t, J 7, 3H).

reactant | 4-bromo-2-chloro-6-fluoroaniline | 2.0 mmol, 0.5 g | BrC1=CC(=C(N)C(=C1)F)Cl | C6H4BrClFN
reactant | 3-ethoxyphenylboronic acid | 2.65 mmol, 0.441 g | C(C)OC=1C=C(C=CC1)B(O)O | C8H11BO3
product | 3-chloro-3′-ethoxy-5-fluorobiphenyl-4-amine | 0.360 g | ClC=1C=C(C=C(C1N)F)C1=CC(=CC=C1)OCC | C14H13ClFNO
